US08748632B2
To a solution of 2-cyclopentyl-5-hydroxyisoindolin-1-one (500 mg, 2.3 mmol) in acetone (20 mL), K2CO3 (1.2 g, 8.7 mmol) and 3-(bromomethyl)phenylboronic acid (650 mg, 3.0 mmol) were added and refluxed for 3 h. The reaction mixture was filtered and solvent was evaporated in vacuo to obtain 3-((2-cyclopentyl-1-oxoisoindolin-5-yloxy)methyl)phenylboronic acid as a white solid (582.7 mg, 72%). The crude product was used for the next step without further purification. 1H NMR (400 MHz, DMSO-d6): δ 7.86 (s, 1H), 7.75-7.69 (m, 2H), 7.55-7.32 (m, 4H), 7.19 (s, 1H), 7.09-7.07 (m, 1H), 5.15 (s, 2H), 4.55-4.49 (m, 1H), 4.37 (s, 2H), 1.84-1.56 (m, 8H). LRMS calcd. for C20H22BNO4 [M+H]+ 352 found: 352.

reactant | 2-cyclopentyl-5-hydroxyisoindolin-1-one | 2.3 mmol, 500 mg | C1(CCCC1)N1C(C2=CC=C(C=C2C1)O)=O | C13H15NO2
reactant | K2CO3 | 8.7 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(bromomethyl)phenylboronic acid | 3.0 mmol, 650 mg | BrCC=1C=C(C=CC1)B(O)O | C7H8BBrO2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-((2-cyclopentyl-1-oxoisoindolin-5-yloxy)methyl)phenylboronic acid | 582.7 mg, 72% | C1(CCCC1)N1C(C2=CC=C(C=C2C1)OCC=1C=C(C=CC1)B(O)O)=O | C20H22BNO4
